US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 2-fluoro-3-(pyridin-3-yl)benzeneboronic acid (61 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(2-fluoro-3-pyridin-3-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (36 mg, 45%). δH (360 MHz, CDCl3) 7.40-7.55 (3H, m), 7.65-7.70 (2H, m), 7.84 (1H, d, J 8.4), 7.93 (1H, dq, J 8.1 and 1.9), 8.37 (1H, dd, J 2.3 and 8.6), 8.67 (1H, dd, J 1.6 and 4.7), 8.86 (1H, s), 9.34 (1H, d, J 4.6). m/z (ES+) 370 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 2-fluoro-3-(pyridin-3-yl)benzeneboronic acid | 0.28 mmol, 61 mg | FC1=C(C=CC=C1C=1C=NC=CC1)B(O)O | C11H9BFNO2
product | 5-(2-fluoro-3-pyridin-3-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 36 mg, 45% | FC1=C(C=CC=C1C=1C=NC=CC1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C20H11F4N3
